US07863291B2
To 4-bromopyridin-2-amine (0.5 g, 2.8 mmol), 2-methoxypyridin-3-ylboronic acid (0.52 g, 3.4 mmol) in DMF (25 mL) was added 1N sodium carbonate (10 mL, 2.3 mmol), followed by 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (0.21 g, 0.26 mmol). The reaction mixture was stirred for 3 hours at 85° C. and then cooled to room temperature. The product was extracted with ethyl acetate (2×50 mL), dried with MgSO4, filtered, and concentrated in vacuo. The crude product was purified by chromotography (Biotage: 100 to 90/10% ethyl acetate-ethyl acetate/methanol) to yield 2-methoxy-3,4′-bipyridin-2′-amine (0.53 g, 2.63 mmol, 93% yield) as a brown powder. The product was taken directly to the next step.

reactant | 4-bromopyridin-2-amine | 2.8 mmol, 0.5 g | BrC1=CC(=NC=C1)N | C5H5BrN2
reactant | 2-methoxypyridin-3-ylboronic acid | 3.4 mmol, 0.52 g | COC1=NC=CC=C1B(O)O | C6H8BNO3
reactant | sodium carbonate | 2.3 mmol, 1N, 10 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-methoxy-3,4′-bipyridin-2′-amine | 2.63 mmol, 0.53 g, 93% yield | COC1=NC=CC=C1C1=CC(=NC=C1)N | C11H11N3O
